US06498169B1
Synthesis of 4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine
1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone (1.40 g) and 5-aminoindan (680 mg) were reacted in the same manner as described in Preparation Example 37 to give the title compound.

reactant | 1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-4-piperidone | 1.40 g | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)=O | C20H24N2O4
reactant | 5-aminoindan | 680 mg | NC=1C=C2CCCC2=CC1 | C9H11N
product | 4-(5-Indanylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | C1CCC2=CC(=CC=C12)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C29H35N3O3
